US09259470B2
4-(2-Chloro-3-fluoropyridin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-2-amine (0.08 g, 0.259 mmol) and 1M HCl (3.89 mL, 3.89 mmol) were added to a microwave vial. The vial was heated in a microwave at 140° C. for a total of 10 hours in 2 hour segments. The reaction mixture was diluted with water, and the desired 3-fluoro-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.0565 g, 0.195 mmol, 75.1% yield) was collected by vacuum filtration.

reactant | 4-(2-Chloro-3-fluoropyridin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-2-amine | 0.259 mmol, 0.08 g | ClC1=NC=CC(=C1F)C1=NC(=NC=C1)NC1CCOCC1 | C14H14ClFN4O
reactant | HCl | 3.89 mmol, 1M, 3.89 mL | Cl | ClH
reactant | water | O | H2O
product | 3-fluoro-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.195 mmol, 0.0565 g, 75.1% yield | FC=1C(NC=CC1C1=NC(=NC=C1)NC1CCOCC1)=O | C14H15FN4O2
